US09422331B2
A rt solution of tert-butyl(3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (510 mg, 863 μmol) in 4 M HCl in dioxane (4.32 ml) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration to provide (3S,4S)-3-amino-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride (410 mg, 90%) as a white solid. MS m/z 491 (MH)+.

reactant | tert-butyl(3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 863 μmol, 510 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(CS(=O)(=O)C)=O)C)NC(OC(C)(C)C)=O)=O)CC2=C(C=CC3=CC=CC=C23)C)C=C1 | C31H34N4O6S
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 4.32 ml | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (3S,4S)-3-amino-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride | 410 mg, 90% | Cl.N[C@H]1[C@@H](N(C2=C(N(C1=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC(=C2)C#N)C(CS(=O)(=O)C)=O)C | InChI=1S/C26H26N4O4S.ClH/c1-16-8-10-19-6-4-5-7-20(19)21(16)14-29-22-11-9-18(13-27)12-23(22)30(17(2)25(28)26(29)32)24(31)15-35(3,33)34;/h4-12,17,25H,14-15,28H2,1-3H3;1H/t17-,25-;/m0./s1
